US06777559B2
reaction of 9-benzenesulfonyl-9H-carbazol-4-ol with epichlorohydrin under basic conditions to give 9-benzenesulfonyl-4-oxiranylmethoxy-9H-carbazole;

reactant | 9-benzenesulfonyl-9H-carbazol-4-ol | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C(=CC=CC12)O | C18H13NO3S
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | 9-benzenesulfonyl-4-oxiranylmethoxy-9H-carbazole | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C(=CC=CC12)OCC1OC1 | C21H17NO4S
